US07361672B2
63.3 Using general method F, {5-[(5-chloro-thiophene-2-carbonyl)-amino]-tetrazol-2-yl}-acetic acid methyl ester was reacted with 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one (CAS 536747-52-1, prepared according to C. F. Bigge et al., patent application WO 2003045912) to give 5-chloro-thiophene-2-carboxylic acid (2-{[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-methyl}-2H-tetrazol-5-yl)-amide. Off-white solid. MS 474.3 ([M+H]+)

reactant | {5-[(5-chloro-thiophene-2-carbonyl)-amino]-tetrazol-2-yl}-acetic acid methyl ester | COC(CN1N=C(N=N1)NC(=O)C=1SC(=CC1)Cl)=O | C9H8ClN5O3S
reactant | 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one | NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F | C11H9FN2O
product | 5-chloro-thiophene-2-carboxylic acid (2-{[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-methyl}-2H-tetrazol-5-yl)-amide | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)NC(=O)CN1N=C(N=N1)NC(=O)C=1SC(=CC1)Cl | C19H13ClFN7O3S
